US04053468
7β-Trifluoromethylthioacetoxy-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid
Reaction of 7β-hydroxy-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid and trifluoromethylthioacetic acid according to the procedure of Preparation 3 gives the title compound.

reactant | 7β-hydroxy-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | O[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H11N3O4S3
reactant | trifluoromethylthioacetic acid | FC(F)(F)CC(=S)O | C3H3F3OS
product | 7β-Trifluoromethylthioacetoxy-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | FC(F)(F)CC(=S)O[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C14H12F3N3O4S4
